Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-7.226634870760001
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5],2.1748687637
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1],5.57880043202
[H:7].[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.07276571061
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.34844956181
[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-7.339308461260001
[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-3.92147037049
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-5.24484221107
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.9362394584699993
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-0.7378471842479999
[H:1]/[C:2](=[C:3]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.76192894952
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[O:7],0.30573658805
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7],-4.1204617881
[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97244246819
[H:1][C:2]#[C:3][O:6][C:7]([H:8])[H:9].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],-3.48257402307
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.7415456099
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],4.95595601476
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.91315985929
[O:1][O:2][C:3]#[C:4][H:5]>>[C:3]#[C:4][H:5].[O:1]=[O:2],2.3487693182
[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],-1.57162102639
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.27813040919
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],1.87349544615
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[H:6],5.00878603476
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:6],1.87436572491
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],3.0975880729900003
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.7778371902
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4],2.03770518
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[O:8][C:9]1([H:10])[H:11],-0.56025663029
